************************************************************************
* auCdl Netlist:
* 
* Library Name:  MyLibPDK45
* Top Cell Name: myPPA_unsigned_4_3
* View Name:     schematic
* Netlisted on:  Nov 29 20:00:52 2024
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL vdd!
+        gnd!

*.PIN vdd!
*+    gnd!

************************************************************************
* Library Name: MyLibPDK45
* Cell Name:    myNAND
* View Name:    schematic
************************************************************************

.SUBCKT myNAND A B Z
*.PININFO A:I B:I Z:O
MM1 Z B net013 gnd! NMOS_VTL W=90n L=50n m=1
MM0 net013 A gnd! gnd! NMOS_VTL W=90n L=50n m=1
MM3 Z A vdd! vdd! PMOS_VTL W=180n L=50n m=1
MM2 Z B vdd! vdd! PMOS_VTL W=180n L=50n m=1
.ENDS

************************************************************************
* Library Name: MyLibPDK45
* Cell Name:    myInverter45
* View Name:    schematic
************************************************************************

.SUBCKT myInverter45 in out
*.PININFO in:I out:O
MM0 out in gnd! gnd! NMOS_VTL W=90n L=50n m=1
MM1 out in vdd! vdd! PMOS_VTL W=180n L=50n m=1
.ENDS

************************************************************************
* Library Name: MyLibPDK45
* Cell Name:    myXOR
* View Name:    schematic
************************************************************************

.SUBCKT myXOR A B Z
*.PININFO A:I B:I Z:O
MM1 A Bbar Z gnd! NMOS_VTL W=90n L=50n m=1
MM0 Z A Bbar Bbar NMOS_VTL W=90n L=50n m=1
MM3 A B Z vdd! PMOS_VTL W=180n L=50n m=1
MM2 Z A B B PMOS_VTL W=180n L=50n m=1
XI0 B Bbar / myInverter45
.ENDS

************************************************************************
* Library Name: MyLibPDK45
* Cell Name:    myHA
* View Name:    schematic
************************************************************************

.SUBCKT myHA A B Cout S
*.PININFO A:I B:I Cout:O S:O
XI0 A B net11 / myNAND
XI1 net11 Cout / myInverter45
XI2 A B S / myXOR
.ENDS

************************************************************************
* Library Name: MyLibPDK45
* Cell Name:    myFA
* View Name:    schematic
************************************************************************

.SUBCKT myFA A B Cin Cout S
*.PININFO A:I B:I Cin:I Cout:O S:O
MM11 net35 Cin net068 vdd! PMOS_VTL W=180n L=50n m=1
MM10 net068 A net069 vdd! PMOS_VTL W=180n L=50n m=1
MM9 net069 B vdd! vdd! PMOS_VTL W=180n L=50n m=1
MM8 net35 net79 net42 vdd! PMOS_VTL W=180n L=50n m=1
MM7 net42 Cin vdd! vdd! PMOS_VTL W=180n L=50n m=1
MM6 net42 B vdd! vdd! PMOS_VTL W=180n L=50n m=1
MM5 net42 A vdd! vdd! PMOS_VTL W=180n L=50n m=1
MM4 net79 A net071 vdd! PMOS_VTL W=180n L=50n m=1
MM3 net071 B vdd! vdd! PMOS_VTL W=180n L=50n m=1
MM2 net79 Cin net7 vdd! PMOS_VTL W=180n L=50n m=1
MM1 net7 B vdd! vdd! PMOS_VTL W=180n L=50n m=1
MM0 net7 A vdd! vdd! PMOS_VTL W=180n L=50n m=1
MM23 net60 B gnd! gnd! NMOS_VTL W=90n L=50n m=1
MM22 net64 A net60 gnd! NMOS_VTL W=90n L=50n m=1
MM21 net35 Cin net64 gnd! NMOS_VTL W=90n L=50n m=1
MM20 net65 Cin gnd! gnd! NMOS_VTL W=90n L=50n m=1
MM19 net65 B gnd! gnd! NMOS_VTL W=90n L=50n m=1
MM18 net65 A gnd! gnd! NMOS_VTL W=90n L=50n m=1
MM17 net35 net79 net65 gnd! NMOS_VTL W=90n L=50n m=1
MM16 net12 B gnd! gnd! NMOS_VTL W=90n L=50n m=1
MM15 net79 A net12 gnd! NMOS_VTL W=90n L=50n m=1
MM14 net4 B gnd! gnd! NMOS_VTL W=90n L=50n m=1
MM13 net4 A gnd! gnd! NMOS_VTL W=90n L=50n m=1
MM12 net79 Cin net4 gnd! NMOS_VTL W=90n L=50n m=1
XI10 net35 S / myInverter45
XI9 net79 Cout / myInverter45
.ENDS

************************************************************************
* Library Name: MyLibPDK45
* Cell Name:    myBuffer_2
* View Name:    schematic
************************************************************************

.SUBCKT myBuffer_2 in out
*.PININFO in:I out:O
XI1 net5 out / myInverter45
XI0 in net5 / myInverter45
.ENDS

************************************************************************
* Library Name: MyLibPDK45
* Cell Name:    myPPA_unsigned_4_3
* View Name:    schematic
************************************************************************

.SUBCKT myPPA_unsigned_4_3 A0<3> A0<2> A0<1> A0<0> A1<3> A1<2> A1<1> A1<0> 
+ A2<3> A2<2> A2<1> A2<0> Cout S<5> S<4> S<3> S<2> S<1> S<0>
*.PININFO A0<3>:I A0<2>:I A0<1>:I A0<0>:I A1<3>:I A1<2>:I A1<1>:I A1<0>:I 
*.PININFO A2<3>:I A2<2>:I A2<1>:I A2<0>:I Cout:O S<5>:O S<4>:O S<3>:O S<2>:O 
*.PININFO S<1>:O S<0>:O
XI6 A2<0> net34 net1 S<2> / myHA
XI5 net28 A1<3> net5 net6 / myHA
XI0 A0<1> A1<0> net35 S<1> / myHA
XI9 net18 A2<3> net5 Cout S<5> / myFA
XI8 net20 A2<2> net6 net18 S<4> / myFA
XI7 net1 A2<1> net29 net20 S<3> / myFA
XI4 net33 A0<3> A1<2> net28 net29 / myFA
XI3 net35 A0<2> A1<1> net33 net34 / myFA
XI10 A0<0> S<0> / myBuffer_2
.ENDS

